US08349898B2
2 g of P2O5/silica gel (65% w/w) (10 mmol) (Hajipour; Kooshki; Ruoho. Tetrahedron Letters 2005, 46, 5503) and 3-phenylpropylbromine (10 mmol, 1.98 g) was ground for 30 seconds, and then 5 mL of HNO3 65% was added. The mixture was ground with a pestle at r.t. until a deep-yellow color appeared (2 minutes). When TLC analysis (n-hexane:EtOAc 90:10) showed complete disappearance of 3-phenylpropylbromide (10 min), ether (100 ml) was added to the reaction mixture and the solid was separated through a short pad of silica gel and washed with ether (3×20 mL). The filtrate was washed with 10% NaHCO3 (3×20 mL) and dried (MgSO4). The solvent was evaporated under reduced pressure and the residue was purified by short column chromatography (n-Hexane:EtOAc, 90:10). 3-(4-nitrophenyl)-propylbromide was obtained (8.3 mmol, 2.02 g 83%) as a yellow oil. 1H NMR (CDCl3): δ 8.2 (d, J=6.3), 7.38 (d, 2H, 6.3), 3.3 (t, 2H, J=7.8), 2.55 (t, 2H, J=7.8), 2.12 (m, 2H). 13C NMR (CDCl3): δ 145.7, 144.9, 129.7, 123.5, 36.7, 34.7, 32.4. Anal. Calculated for C9H10BrNO2: C, 44.29H, 4.13; N, 5.74%. Actual: C, 44.50; H, 48.30; N, 5.80%.

reactant | 3-phenylpropylbromine | 10 mmol, 1.98 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | HNO3 | 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | n-hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-(4-nitrophenyl)-propylbromide | [N+](=O)([O-])C1=CC=C(C=C1)CCCBr | C9H10BrNO2
